US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-morpholin-4-yl-piperidin-1-yl]-methanone
Rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-morpholine (650 mg, 1.75 mmol) was dissolved in dichloromethane (15 mL) and 1-chloroethyl-chloroformate (0.575 mL, 5.27 mmol) were added at 0° C. The reaction mixture was refluxed overnight. Methanol (15 mL) was added and reflux was continued for 3 h. The solvents were evaporated. The crude intermediate was dissolved in dichloromethane (30 mL) and triethylamine (1.22 mL, 8.75 mmol) and 3,5-bistrifluoromethyl-benzoyl chloride (0.35 mL, 1.93 mmol) were added. The reaction mixture was stirred at room temperature overnight and than diluted with 50 mL water. The organic phase was separated and the aqueous layer was extracted twice with 50 mL dichloromethane. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with hexane/ethyl acetate/triethylamine 20:10.1 gave the desired product (820 mg, 90%) as a yellow solid, MS: m/e=521.1 (M+H+).

reactant | Rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-morpholine | 1.75 mmol, 650 mg | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=CC=C(C=C1)Cl | C22H27ClN2O
reactant | 1-chloroethyl-chloroformate | 5.27 mmol, 0.575 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | triethylamine | 8.75 mmol, 1.22 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 1.93 mmol, 0.35 mL | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | Methanol | 15 mL | CO | CH4O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-morpholin-4-yl-piperidin-1-yl]-methanone | 820 mg, 90% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=CC=C(C=C1)Cl)(F)F | C24H23ClF6N2O2
